US05216165
D) 4-[(4-Amino-1-piperidinyl)methyl]-N,N-diethylbenzamide
N,N-Diethyl-4-[(4-oxo-1-piperidinyl)methyl]benzamide (58.74 g, 193 mmol) is dissolved in 580 mL of ethanol and treated with 290 mL of 30% NaOH followed by hydroxylamine hydrochloride (26.82 g, 386 mmol). The mixture is refluxed for 45 minutes, the heating mantle removed and the reaction mixture stirred with an overhead stirrer as 38.4 g of 50/50 aluminum-nickel alloy (powder) are added in small portions with ice cooling. After the addition, the mixture is refluxed for 1.75 hours, then allowed to stand at room temperature overnight, filtered through Solka Floc and most of the ethanol is evaporated in vacuo from the filtrate. The resulting aqueous phase is extracted with 3×100 mL of ether. The pooled extracts are concentrated in vacuo and the oily residue is poured into 500 mL of brine and continuously extracted with ether overnight. Concentration of the extract affords 37 g of product which is purified by flash chromatography on silica gel (110 mm column, 5% ammonia saturated methanol in methylene chloride eluent) affording 7.08 g (24.4 mmol, 13% yield) of product: 1H NMR (Me2SO-d6, 300 MHz) δ7.33 (d,J=8.2 Hz, 2H), 7.27 (d,J=8.2 Hz, 2H), 1.0-3.5 (m, 21H).

reactant | N,N-Diethyl-4-[(4-oxo-1-piperidinyl)methyl]benzamide | 193 mmol, 58.74 g | C(C)N(C(C1=CC=C(C=C1)CN1CCC(CC1)=O)=O)CC | C17H24N2O2
reactant | NaOH | 290 mL | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 386 mmol, 26.82 g | Cl.NO
solvent | ethanol | 580 mL | C(C)O | C2H6O
product | 4-[(4-Amino-1-piperidinyl)methyl]-N,N-diethylbenzamide | 37 g | NC1CCN(CC1)CC1=CC=C(C(=O)N(CC)CC)C=C1 | C17H27N3O
